US07655666B2
N-[6-(1-Hydroxy-3-methoxy-propyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide
A solution of N-[6-(3-methoxy-propionyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide (118 mg, 0.288 mmol) in MeOH (3 mL) at r.t. was treated with NaBH4 (77 mg, 2.03 mmol), added portionwise over a period of 3 h. After disappearance of the starting material, the reaction mixture was acidified with 2M aq HCl and diluted with water. The aqueous phase was extracted with EtOAc (2×), the organic phases were combined, washed with brine and dried (Na2SO4) and evaporated. The white powder obtained was purified by MPLC(RP-C18 column (particle size 5-21 μM) with CH3CN/water 1:2. The fractions containing the product were combined, the acetonitrile is distilled off and the residual water phase was extracted with EtOAc. The organic phase was washed with brine and dried (Na2SO4) and the solvent was removed in vacuo to provide the title compound (112 mg, 94%) as a white powder, mp 180-184° C. 1H-NMR (DMSO-d6, 400 MHz): 11.80 (br s, 1H), 10.35 (br s, 1H), 8.33 (s, 1H), 7.45 (s, 1H), 5.65 (d, J=6 Hz, 1H), 4.98-4.92 (m, 1H), 3.60-3.52 (m, 1H), 3.42-3.35 (m, 1H), 3.20 (s, 3H), 3.15 (s, 3H), 1.86-1.67 (m, 2H).

reactant | N-[6-(3-methoxy-propionyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 0.288 mmol, 118 mg | COCCC(=O)C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C14H14F3N3O6S
reactant | NaBH4 | 2.03 mmol, 77 mg | [BH4-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
solvent | water | O | H2O
product | N-[6-(1-Hydroxy-3-methoxy-propyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 112 mg, 94% | OC(CCOC)C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C14H16F3N3O6S
